US04207320
10-(1-Azetidinyl)-3-ethylimidazo[1,2-a:3,4-a']diquinolin-15-ium Iodide.
A stirred mixture of 2.21 g. of 3-ethyl-10-fluoroimidazo[1,2-a:3,4-a']diquinolin-15-ium iodide, 15 ml. of dimethylformamide and 1.0 ml. of azetidine is heated at 72° C. for 3 days in a pressure vessel, then cooled, treated with 0.5 ml. of azetidine and allowed to stand at 20°-25° C. for 7 days, with occasional agitation. The resulting precipitate of 10-(1-azetidinyl)-3-ethylimidazo[1,2-a:3,4-a']diquinolin-15-ium iodide is collected by filtration, washed with water and dried; m.p. 270°-275° C., after crystallization from methanol.

reactant | 3-ethyl-10-fluoroimidazo[1,2-a:3,4-a']diquinolin-15-ium iodide | [I-].C(C)C1=CC=2C=CC3=[N+](C2C=C1)C=C1N3C=3C=CC(=CC3C=C1)F
reactant | azetidine | N1CCC1 | C3H7N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 10-(1-Azetidinyl)-3-ethylimidazo[1,2-a:3,4-a']diquinolin-15-ium Iodide | [I-].N1(CCC1)C1=CC=2C=CC=3N(C2C=C1)C1=[N+](C=2C=CC(=CC2C=C1)CC)C3 | InChI=1S/C24H22N3.HI/c1-2-17-4-9-22-18(14-17)6-11-24-26(22)16-21-7-5-19-15-20(25-12-3-13-25)8-10-23(19)27(21)24;/h4-11,14-16H,2-3,12-13H2,1H3;1H/q+1;/p-1
